US04300942
To ethyl-N-phosphonomethylglycinate (197 g.; 1.0 mol.) dissolved in 600 ml. of water at 0° C. was added sodium carbonate (159 g.; 1.5 mol). The resulting mixture was stirred until the gas evolution ceased. The resulting solution was added over a period of one hour to a solution of carbonyl sulfide (66 g.; 1.1 mol.) which previously had been condensed in 600 ml. of methanol at -20° C. in an ice-acetone bath. Following the addition, carbonyl sulfide was sparged through the reaction mixture for seven hours. To the mixture was added benzylchloride (171 g.; 1.0 mol.) and the resulting mixture was allowed to gradually warm to 25° C. over a period of 16 hours. The reaction mixture was then filtered and the methanol removed from the filtrate in vacuo. The residue was acidified to pH2 by the addition of concentrated hydrochloric acid. An oil separated and was extracted into 2 liters of ethylacetate. The extract was dried over sodium sulfate and concentrated in vacuo to yield a viscous oil. The oil was dried over phosphorous pentoxide in a vacuum dessicator for 48 hours to yield ethyl-N-[(benzylthio)carbonyl]-N-(phosphonomethyl)-glycinate, monohydrate (250 g.) as a yellow glass having a melting point of 56°-58° C. and the following analysis:

reactant | ethyl-N-phosphonomethylglycinate | 1.0 mol, 197 g | C(C)OC(CNCP(=O)(O)O)=O | C5H12NO5P
reactant | sodium carbonate | 1.5 mol, 159 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | carbonyl sulfide | 1.1 mol, 66 g | C(=O)=S | COS
reactant | benzylchloride | 1.0 mol, 171 g | C(C1=CC=CC=C1)Cl | C7H7Cl
solvent | methanol | CO | CH4O
solvent | water | O | H2O
product | ethyl-N-[(benzylthio)carbonyl]-N-(phosphonomethyl)-glycinate | C(C)OC(CN(CP(=O)(O)O)C(=O)SCC1=CC=CC=C1)=O | C13H18NO6PS
